US08541579B2
To a solution of (2R)-[(tert-butoxycarbonyl)amino](2,3-dihydro-1H-inden-2-yl)ethanoic acid (84 mg) in dry tetrahydrofuran (6 ml) at −20° C. under a nitrogen atmosphere was added N-methylmorpholine (32 l) and a solution of isopropylchloroformate in toluene (1.0M, 290 l). After 10 minutes, a solution of N-[1-(2,4-difluorophenyl)-2-(dimethylamino)-2-oxoethyl]-L-leucine (95 mg) in tetrahydrofuran (10 ml) was added and the reaction was allowed to warm to room temperature. After 20 hours, the solvent was removed in vacuo and the residue was dissolved in 4N hydrochloric acid in dioxan (4 ml). After 4 hours methanol (5 ml) was added and the reaction was left to stand for a further 18 hours. The solvent was then removed in vacuo and the residue was dissolved in dioxan (5 ml) and to this was added triethylamine (0.5 ml). After 1 hour, the solvent was removed and the residue was applied to an SPE (10 g, silica). The product was eluted using methanol. A second SPE was used to further purify the material (2 g, silica) using an ethyl acetate:methanol gradient (20:1 to 1:1) to afford (2R)-2-(2,4-difluorophenyl)-2-[(3R,6R)-3-(2,3-dihydro-1H-inden-2-yl)-6-isobutyl-2,5-dioxopiperazin-1-yl]-N,N-dimethylethanamide (38 mg).

reactant | (2R)-[(tert-butoxycarbonyl)amino](2,3-dihydro-1H-inden-2-yl)ethanoic acid | 84 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1CC2=CC=CC=C2C1 | C16H21NO4
reactant | N-methylmorpholine | 32 l | CN1CCOCC1 | C5H11NO
reactant | isopropylchloroformate | C(C)(C)OC(=O)Cl | C4H7ClO2
reactant | N-[1-(2,4-difluorophenyl)-2-(dimethylamino)-2-oxoethyl]-L-leucine | 95 mg | FC1=C(C=CC(=C1)F)C(C(=O)N(C)C)N[C@@H](CC(C)C)C(=O)O | C16H22F2N2O3
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | toluene | 1.0M, 290 l | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2R)-2-(2,4-difluorophenyl)-2-[(3R,6R)-3-(2,3-dihydro-1H-inden-2-yl)-6-isobutyl-2,5-dioxopiperazin-1-yl]-N,N-dimethylethanamide | 38 mg | FC1=C(C=CC(=C1)F)[C@H](C(=O)N(C)C)N1C([C@H](NC([C@H]1CC(C)C)=O)C1CC2=CC=CC=C2C1)=O | C27H31F2N3O3
